US06960614B2
Diethylazodicarboxylate (3.60 mL, 22.9 mmol) was added dropwise over 30 min to a solution comprised of O-[2-(2,2,2-trifluoro-ethylamino)-ethyl]-hydroxylamine (3.19 g, 22.3 mmol, prepared as in J. Am. Chem. Soc. 1979, 101, 4300), triphenylphosphine (6.05 g, 23.1 mmol), and N-hydroxyphthalimide (3.65 g, 22.4 mmol). The resultant reaction mixture was stirred at ambient temperature. After 20 h, the reaction mixture was concentrated and the residue was dissolved in 60 mL of warm chloroform. Upon cooling, crystallization of diethyl 1,2-hydrazaine dicarboxylate ensued. The precipitate was filtered and the filtrate was concentrated and further diluted with ether. A single crystal of triphenylphosphine oxide was added, initiating copious precipitation. The resultant precipitate was removed by filtration and the filtrate was concentrated in vacuo and chromatographed on silica gel. Elution with hexanes-ethyl acetate (2:1) afforded 2-[2-(2,2,2-trifluoro-ethylamino)-ethoxy]-isoindole-1,3-dione (4.05 g, 63% yield) as a colorless oil: 1H NMR (400 Mz, CDCl3) δ 7.84-7.73 (m, 4H), 4.30 (t, J=4.8 Hz, 2H), 3.26 (q, J=9.5 Hz, 2H), 3.00 (t, J=4.9 Hz, 2H), 2.33 (br s, 1H); MS (APCI+)=289.0.

reactant | Diethylazodicarboxylate | 22.9 mmol, 3.60 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | O-[2-(2,2,2-trifluoro-ethylamino)-ethyl]-hydroxylamine | 22.3 mmol, 3.19 g | FC(CNCCON)(F)F | C4H9F3N2O
reactant | triphenylphosphine | 23.1 mmol, 6.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 22.4 mmol, 3.65 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
product | 2-[2-(2,2,2-trifluoro-ethylamino)-ethoxy]-isoindole-1,3-dione | 4.05 g, 63% yield | FC(CNCCON1C(C2=CC=CC=C2C1=O)=O)(F)F | C12H11F3N2O3
